US07462630B2
Synthesis of ethyl {[(tetrahydro-2H-pyran-4-yloxy)carbonyl]amino}acetate:
0.600 ml (4.80 mmol) of ethyl isocyanatoacetate was dissolved in dichloromethane. 0.06 ml of 4 N hydrochloric acid/1,4-dioxane solution was added to the obtained solution, and they were stirred at room temperature for 5 minutes. 0.503 ml (5.28 mmol) of tetrahydro-4H-4-pyranol was added to the reaction mixture, and they were stirred at room temperature overnight. After concentrating the reaction mixture under reduced pressure, the residue was purified by the silica gel chromatography (hexane:ethyl acetate=9:1 to 1:4), the title compound was obtained.

reactant | ethyl isocyanatoacetate | 4.80 mmol, 0.600 ml | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | hydrochloric acid 1,4-dioxane | 4 N, 0.06 ml | Cl.O1CCOCC1
reactant | tetrahydro-4H-4-pyranol | 5.28 mmol, 0.503 ml | O1CCC(CC1)O | C5H10O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | ethyl {[(tetrahydro-2H-pyran-4-yloxy)carbonyl]amino}acetate | O1CCC(CC1)OC(=O)NCC(=O)OCC | C10H17NO5
